Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dysphagia and odynophagia from right neck mass
 
Major Surgical or Invasive Procedure:
___: Transcutaneous FNA biopsy of Right-sided neck mass

 
History of Present Illness:
Mr. ___ is an ___ year old man with PMH COPD on hospice, Bipolar 
disorder, hypothyroidism, anxiety, who was transferred to ___ 
for evaluation of newly diagnosed neck mass. The patient has 
been failing at home for some time, was previously admitted to 
hospice for 8 months, then discharged. He was reinstated on 
hospice earlier this week for continued failure to thrive. He 
notes that for the past few months, he has been having 
progressive difficulty with his swallowing, but has compensated 
with taking smaller bites. He had a few episodes of bringing up 
saliva that wouldn't go down. His daughter notes that he has 
been having trouble with liquids for the past 6 months and 
sometimes she will even note liquid coming back up his nose 
after drinking.Yesterday, he developed increased difficulty 
swallowing, associated with severe pain on right side of throat. 
He notes that his difficulty is more with pain than choking. He 
denies worsening of his breathing during this time. Due to 
severe pain, his daughter took him to see his PCP, who was 
concerned about a possible neck mass and wanted a CT done. His 
daughter took him to ___, where he had a CT scan 
done of his neck that showed a large mass that appears to be 
coming from the thyroid. It is compressing esophagus almost 
completely, and some compression of trachea. Received duoneb, 
Zofran and solu-medrol. Receiving d5 ns at 150 cc/hr. Received 
500 cc bolus n/s.  
 
 In the ED, initial vitals were: 97.5 , 68, 106/54, 19 94% 2L 
Nasal Cannula  
 -Labs notable for: wbc 10.4, H/H 12.4/39.2, plt 182, 96% neutr, 
INR 1. Chem 7 wnl, Cr 0.7.  
 - no repeat imaging done  
 -Patient was given: Lorazepam 0.25mg IV, 1L NS @100cc/hr  
 -Surgery consulted and recommended: no acute surgical 
intervention. ___ benefit from endocrine consult.  
 -Vitals prior to transfer: 97.8, 64, 106/52, 17, 98% Nasal 
Cannula  
 
 On the floor, patient denies any throat pain or difficulty 
breathing. He confirmed him DNI/DNR status. Daughter said that 
this is the most verbal he has been regarding code status. He 
has previously said that he would want paddles done, but 
currently is not verbalizing this. He has had significant weight 
loss, 5 lbs over the last month. Over 80 lbs in the past few 
years.  
 
 ROS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
 PAST MEDICAL HISTORY:  
 COPD on hospice, 2L baseline  
 Bipolar Disorder  
 BPH  
 Hypothyroidism  
 Anxiety  

 
Social History:
___
Family History:
No family history of thyroid problems, cancer. 
 
Physical Exam:
Admission exam:

Vital Signs: 98.1 PO, 109 / 63, 69, 18, 95 2l  
 General: Cachectic elderly man, Alert, oriented, no acute 
distress, wearing oxygen  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple with fullness to right thyroid but no discrete mass  

 CV: Distant heart sounds, Regular rate and rhythm, normal S1 + 
S2, no murmurs, rubs, gallops  
 Lungs: not using accessory muscles, distant breath sounds, poor 
air movement, no wheezes, ronchi, crackles anteriorly  
 Abdomen: concave, soft, ribs sticking out, hypoactive bowel 
sounds, nontender to palpation  
 GU: No foley  
 Ext: Thin, Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
 Neuro: tremor to both hands bilaterally, no focal neurologic 
deficits 

Discharge exam:

Vitals- 98.3, BP 121/64, HR 76, RR 18, O2 96% on 2L
General- AOx3, older man, cachectic, temporal wasting, lying in 
bed
HEENT- EOMI, PERRL, Sclera anicteric, MMM, oropharynx clear, 
neck supple with fullness on right side but no palpable mass, no 
lymphadenopathy
Lungs- Lungs clear to auscultation, diminished breath sounds 
diffusely, no wheezes or rhonchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, gallops 
 
Abdomen- soft, nondistended, nontender to palpation 
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no edema
Neuro- CNs2-12 grossly intact. Mild bilateral hand tremor. 
Normal strength and sensation in tact to light touch. No focal 
neuro deficits.
 
Pertinent Results:
On admission:
___ 10:11PM BLOOD WBC-10.4* RBC-3.99* Hgb-12.4* Hct-39.2* 
MCV-98 MCH-31.1 MCHC-31.6* RDW-13.2 RDWSD-47.5* Plt ___
___ 10:11PM BLOOD ___ PTT-32.0 ___
___ 10:11PM BLOOD Glucose-165* UreaN-16 Creat-0.7 Na-141 
K-4.4 Cl-105 HCO3-28 AnGap-12
___ 06:50AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.1
___ 06:50AM BLOOD T3-82 Free T4-1.1

On discharge:
___ 06:00AM BLOOD WBC-5.5 RBC-3.97* Hgb-12.1* Hct-38.5* 
MCV-97 MCH-30.5 MCHC-31.4* RDW-13.1 RDWSD-46.9* Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-96 UreaN-18 Creat-0.6 Na-141 
K-3.9 Cl-101 HCO3-30 AnGap-14
___ 06:00AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.1

IMAGING & STUDIES: 
CT scan (___) performed at ___ ER: Large 6cm right neck 
mass, visible compression of the esophagus and displacing the 
trachea, but trachea appears patent. 

FNA biopsy of neck (___):
Technically successful fine needle aspiration of the right neck 
mass. No 
periprocedural complications. Cytology is pending. 

 
Brief Hospital Course:
Mr. ___ is an ___ year old man with PMH of COPD on 2L home 
oxygen and hospice, bipolar disorder, hypothyroid, and anxiety 
who presents with six months of progressive dysphagia and new 
diagnosis of CT confirmed right neck mass. He remained stable 
throughout this admission, but did have trouble eating solid 
food as evaluated by our speech language pathology team. He had 
an ultrasound guided FNA of his neck mass on ___.

# Neck mass: The patient has been on hospice for the last 8 
months due to COPD. He was recently taken off but then restarted 
due to failure to thrive, characterized by frailty and 5lb 
weight loss in the last few weeks. Patient endorses 6+ months of 
progressive dysphagia, with symptoms of frequent saliva 
production and occasional regurgitation with liquids and solids. 
Two days prior to admission, patient developed odynophagia 
prompting visit to PCP, who referred him to the ED where a CT 
scan demonstrated right neck mass. At present, he has mild 
dysphagia but minimal odynophagia and no trouble breathing. 
Goals of care discussion with daughter and patient revealed that 
patient wants to minimize pain and maximize comfort. He reports 
that he "enjoys eating chocolate ice cream." Family and patient 
have had several prior discussions about code status and are 
confirmed DNR/DNI and do not want artificial nutrition or 
invasive interventions. Speech swallow study showed difficulty 
with solids and very thick liquids. Thyroid lab tests were 
normal. IP was consulted who concluded that as trachea is 
patent, there were no interventions they could assist with. GI 
was consulted and did not think an esophageal stent was tenable. 
Family meeting on ___ revealed that patient and family would 
like an ultrasound biopsy of the mass for characterization, but 
do not want palliative radiation. Radiology was consulted and 
performed an ultrasound guided FNA biopsy on ___. 

# Failure to thrive: Patient with 31% weight loss over the last 
year, likely caused by neck mass and inability to tolerate 
normal PO. Nutrition team was consulted and provided 
recommendations, including thiamine 100 mg daily and a 
multivitamin.

# BPH: Patient's home tamsulosin was initially held due to 
difficulty taking PO, but patient subsequently had urinary 
retention requiring a foley catheter for 36 hours. Patient was 
then restarted on tamsulosin (crushed into his ice cream), and 
patient voided well after that. 

# GOC: Had multiple discussions with patient and daughter ___ 
regarding goals of care. Patient would like to minimize pain, 
maximize comfort. He enjoys certain foods like ice cream. He 
lives alone, but daughter lives nearby. Confirmed DNR/DNI and 
would not like a feeding tube or any artificial nutrition. MOLST 
form completed and placed in chart.

Chronic problems:

# COPD: Patient with 80 pack-year smoking history (quit ___ years 
ago), long-standing COPD on home oxygen 2L by NC and hospice. At 
home, patient does not use inhalers, but does take Prednisone 5 
mg PO daily. CT scan showed emphysematous changes. Patient with 
no change in breathing status from his baseline, still 
maintaining good O2 saturation with 2L O2 by NC. He was 
initially given IV methylpred (as not tolerating po), but he was 
then switched back to home prednisone 5 mg daily.

# Hypothyroid: History of hypothyroidism on home levothyroxine 
50 mcg daily. 

# Bipolar: On home Lithium 450 mg PO daily. Given in the 
hospital as Lithium liquid solution 150 mg TID due to inability 
to tolerate PO.

# Anxiety: Given his home dose of Ativan 0.25 mg IV BID

Transitional Issues:
-f/u with physician at ___ facility
-Cytology from FNA pending at the time of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. lithium carbonate 450 mg oral DAILY 
4. LORazepam 0.5 mg PO Q8H:PRN anxiety, respiratory distress 
5. PredniSONE 5 mg PO DAILY 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Lithium Oral Solution 150 mg PO TID bipolar  
2.  Multivitamins 5 mL PO DAILY  
3.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  LORazepam 0.5 mg PO Q8H:PRN anxiety, respiratory distress  
6.  PredniSONE 5 mg PO DAILY  
7.  Spiriva Respimat (tiotropium bromide) 2.5 mcg/actuation 
inhalation DAILY  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Tiotropium Bromide 1 CAP ___ DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
End-stage COPD
Neck mass

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you were having difficulty swallowing and you were found 
to have a mass in your neck.

We spoke with our surgeons who did not feel that it would be a 
good idea to operate on the mass. We also spoke with our 
gastroenterology doctors who did not feel that opening your 
esophagus with a stent would be beneficial.

To help diagnose this mass, our radiology doctors took ___ 
of the mass. The results of this could take ___ weeks to come 
back, and we will contact you with the results.

After you leave, you should not take in any solid foods because 
this could cause your esophagus to become clogged. You should 
take in thin liquids, like broth, ensure shakes or ice cream 
instead.

It was a pleasure to help care for you during this 
hospitalization, and we wish you all the best in the future.

Sincerely,
Your ___ Team
 
Followup Instructions:
___